* EML fabric Stage-B characterization: sky130 nfet_01v8 subthreshold sweep
* Question: how many clean exponential decades does ID(VGS) give us,
* and what is the slope factor? (exp device candidate #1)
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* W/L = 1u/1u, VDS held at 0.9 V (saturation for subthreshold)
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 W=1 L=1
VD  d 0 0.9
VG  g 0 0.0

.control
set filetype=ascii
dc VG 0.0 0.9 0.002
wrdata nfet_subvt_id.csv i(VD)
echo DONE
.endc
.end
